US07314937B2
[4-(4-Piperidin-1-yl-butoxy)-benzyl]-(2-pyrrolidin-1-yl-ethyl)-amine:
An 8 mL DMF solution of [4-(4-bromo-butoxy)-benzyl]-(2-pyrrolidin-1-yl-ethyl)-amine (307 mg, 0.86 mmol) and piperidine (0.22 mL, 2.2 mmol) is stirred at 90° C. for six hours under N2. The reaction mixture is cooled, diluted with CH2Cl2, filtered, washed with brine, dried (Na2SO4), and concentrated. The residue is purified by chromatography (SiO2; 0-6% MeOH/CH2Cl2/1% NH4OH gradient) to give the product (40 mg, 12% yld). MS(ES+)360.4(M+H)+ free base.

reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
reactant | [4-(4-bromo-butoxy)-benzyl]-(2-pyrrolidin-1-yl-ethyl)-amine | 0.86 mmol, 307 mg | BrCCCCOC1=CC=C(CNCCN2CCCC2)C=C1 | C17H27BrN2O
reactant | piperidine | 2.2 mmol, 0.22 mL | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [4-(4-Piperidin-1-yl-butoxy)-benzyl]-(2-pyrrolidin-1-yl-ethyl)-amine | N1(CCCCC1)CCCCOC1=CC=C(CNCCN2CCCC2)C=C1 | C22H37N3O
